US05134111
(d) Preparation of 8-isopropyl-1-methoxymethoxy naphthalene
8.40 g of 8-isopropyl-1-naphthyl acetate was dissolved in 50 ml of methanol, to which 2.2 g of sodium methoxide was added at room temperature, followed by agitation for 10 minutes as it is. Water was added to the solution, which was rendered acidic by the use of 1N hydrochloric acid, followed by extraction with ethyl acetate. The resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate, from which the solvent was distilled off. The resulting residue was dissolved in 30 ml of dimethylformamide without purification, to which 1.94 g of 60% sodium hydride was added at room temperature. After 10 minutes, it was cooled down to 0° C., to which 5.96 g of chloromethyl methyl ether was added, followed by agitation for 15 minutes as it is. Water was added to the solution which was extracted with ethyl acetate, and th resultant organic phase was washed with a saturated saline solution and dried with anhydrous magnesium sulfate, from which the solvent was distilled off. The resultant residue was purified by silica gel column chromatography (3% ethyl acetate/hexane) to obtain 8.13 g of the captioned compound as a light yellow oily substance.

reactant | 8-isopropyl-1-naphthyl acetate | 8.40 g | C(C)(=O)OC1=CC=CC2=CC=CC(=C12)C(C)C | C15H16O2
reactant | sodium methoxide | 2.2 g | C[O-].[Na+]
reactant | Water | O | H2O
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 50 ml | CO | CH4O
product | 8-isopropyl-1-methoxymethoxy naphthalene | 8.13 g | C(C)(C)C=1C=CC=C2C=CC=C(C12)OCOC | C15H18O2
